US05663164
25 g of a mixture of 85% of 2-nitrothiophene and 15% of 3-nitrothiophene and 375 ml of a 37% aqueous solution of hydrochloric acid were mixed together and then, at 30° C. over about one hour, 50 g of tin in granules were introduced in small portions. The mixture was stirred at 30° C. until the metal had disappeared (4 hours in all) and 50 ml of ethanol, 22 g of anhydrous ferric chloride and 0.5 g of anhydrous zinc chloride were added. Then at 60° C. over about one hour, 30 ml of methyl vinyl ketone and 60 ml of ethanol were introduced with stirring at 80° C. for two hours and at 20° C. for 16 hours. The reaction mixture was poured onto ice and carbon tetrachloride and concentrated ammonia were added to pH 9. After filtering on hyflosupercel and decanting, the aqueous phase was extracted with carbon tetrachloride, then dried and concentrated to dryness by distilling under reduced pressure. The 9.8 g of residue were chromatographed over silica under nitrogen pressure and eluted with a gradient of 100% of methylene chloride to 100% of ethyl acetate to obtain 7.55 g of 4-methyl thieno[2,3-b]pyridine.

reactant | 2-nitrothiophene | [N+](=O)([O-])C=1SC=CC1 | C4H3NO2S
reactant | 3-nitrothiophene | [N+](=O)([O-])C1=CSC=C1 | C4H3NO2S
reactant | hydrochloric acid | Cl | ClH
reactant | tin | 50 g | [Sn] | Sn
reactant | methyl vinyl ketone | 30 ml | C(=C)C(=O)C | C4H6O
reactant | ammonia | N | H3N
catalyst | zinc chloride | 0.5 g | [Cl-].[Zn+2].[Cl-]
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-methyl thieno[2,3-b]pyridine | 7.55 g | CC1=C2C(=NC=C1)SC=C2 | C8H7NS
